US07528164B2
2-Amino-3-cyano-4-(5-methyl-pyridin-3-yl)-7-hydroxymethyl-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 1-hydroxymethyl-4-hydroxy-indole (163 mg, 1.0 mmol), 5-methyl-pyridine-3-carbaldehyde (121 mg, 1.0 mmol), malononitrile (66 mg, 1.0 mmol) and piperidine (0.05 mL, 0.5 mmol), similar to Example 16, to yield 230 mg (69%) of a white solid. 1H NMR (DMSO-d6): 8.31 (d, J=2.4 Hz, 1H), 8.27 (d, J=1.8 Hz, 1H), 7.44 (d, J=3.0 Hz, 1H), 7.31-7.26 (m, 2H), 7.01 (brs, 2H), 6.73 (d, J=8.4 Hz, 1H), 6.48-6.47 (m, 2H), 5.47 (d, J=6.0 Hz, 2H), 4.86 (s, 1H), 2.23 (s, 3H).

reactant | 1-hydroxymethyl-4-hydroxy-indole | 1.0 mmol, 163 mg | OCN1C=CC2=C(C=CC=C12)O | C9H9NO2
reactant | 5-methyl-pyridine-3-carbaldehyde | 1.0 mmol, 121 mg | CC=1C=C(C=NC1)C=O | C7H7NO
reactant | malononitrile | 1.0 mmol, 66 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.5 mmol, 0.05 mL | N1CCCCC1 | C5H11N
product | 2-Amino-3-cyano-4-(5-methyl-pyridin-3-yl)-7-hydroxymethyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C=1C=NC=C(C1)C)N(C=C3)CO | C19H16N4O2
